* EF86 / 6267 — low-noise small-signal pentode (preamp/microphone).
*
* Norman Koren pentode model. Классическая Vox/EICO preamp tube;
* высокий gain, низкий шум.
* tube_type: pentode
* Pins: P (plate), G2 (screen), G (grid 1), K (cathode).
.SUBCKT EF86 P G2 G K
* Koren parameters: MU=38 EX=1.3 KG1=1100 KG2=4800 KP=170 KVB=20
E1 7 0 VALUE={V(G2,K)/170*LN(1+EXP(170*(1/38+V(G,K)/V(G2,K))))}
G1 P K VALUE={(sgn(V(7))*pwr(abs(V(7)),1.3)+sgn(V(7))*pwr(abs(V(7)),1.3))/1100 * ATAN(V(P,K)/20)}
G2 G2 K VALUE={(sgn(V(7))*pwr(abs(V(7)),1.3)+sgn(V(7))*pwr(abs(V(7)),1.3))/4800}
C1 G K 3.8p
C2 G P 0.05p
C3 P K 5.3p
RGI G K 1MEG
.ENDS EF86
